US06271225B1
In the same manner as in Starting Material Synthesis Example 67 and using 2-bromo-5-methyl-3-thiophenecarboxylic acid, thionyl chloride and 2-amino-5-fluorophenol, N-(4-fluoro-2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide is obtained.

reactant | 2-bromo-5-methyl-3-thiophenecarboxylic acid | BrC=1SC(=CC1C(=O)O)C | C6H5BrO2S
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-fluorophenol | NC1=C(C=C(C=C1)F)O | C6H6FNO
product | N-(4-fluoro-2-hydroxyphenyl)-2-bromo-5-methyl-3-thiophenecarboxamide | FC1=CC(=C(C=C1)NC(=O)C1=C(SC(=C1)C)Br)O | C12H9BrFNO2S
